US05739079
13.0 g (80 mmol) of 3,4-dichlorophenol and 12.2 g (88 mmol) of potassium carbonate were refluxed for 30 minutes in 400 ml of acetone. 15.8 g (96 mmol) of ethyl 2-chloroacetoacetate were subsequently added dropwise, the mixture was refluxed for 8 hours and evaporated in vacuo, and water was added to the residue. The aqueous phase was extracted three times with ethyl acetate, and the combined organic phases were dried over magnesium sulfate and evaporated. Column chromatography of the residue gave 15.8 g (68% of theory) of ethyl 2-(3,4-dichlorophenoxy)-3-ketobutanate as an oil.

reactant | 3,4-dichlorophenol | 80 mmol, 13.0 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | potassium carbonate | 88 mmol, 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-chloroacetoacetate | 96 mmol, 15.8 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | ethyl 2-(3,4-dichlorophenoxy)-3-ketobutanate | 15.8 g, 68% | ClC=1C=C(OC(C(=O)OCC)C(C)=O)C=CC1Cl | C12H12Cl2O4
